US04073892
A solution of 2.3 g of N2 -(6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxypropyl)glycine ethyl ester in 15 ml of methanol and 5 ml of 2N sodium hydroxide solution was warmed at 40° C and held at that temperature for 10 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10:9:1). The main fraction was evaporated to dryness and washed with ether to give 1.8 g of N2 -(6, 7-dimethoxy-2-naphthylsulfonyl)L-arginyl-N-(2-methoxypropyl)glycine as an amorphous solid.

reactant | N2 (6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxypropyl)glycine ethyl ester | 2.3 g | N#N.C(C)OC(CN(CC(C)OC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O
solvent | methanol | 15 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
product | N2 (6, 7-dimethoxy-2-naphthylsulfonyl)L-arginyl-N-(2-methoxypropyl)glycine | 1.8 g | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CC(C)OC | InChI=1S/C24H35N5O8S.N2/c1-15(35-2)13-29(14-22(30)31)23(32)19(6-5-9-27-24(25)26)28-38(33,34)18-8-7-16-11-20(36-3)21(37-4)12-17(16)10-18;1-2/h7-8,10-12,15,19,28H,5-6,9,13-14H2,1-4H3,(H,30,31)(H4,25,26,27);/t15?,19-;/m0./s1
